US06670379B2
To a solution of ((R)-1-(4-amino-benzyl)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl)-carbamic acid tert-butyl ester (1.19 g, 2.61 mmol) in dichloromethane (15 ml) cooled to 0° C. is added triethylamine (0.37 ml, 2.65 mmol) and methanesulfonylchloride (0.192 ml, 2.49mmol). The reaction mixture is allowed to warm to ambient temperature with stirring for 1 hour, then washed with water and saturated brine solution, dried over magnesium sulphate and evaporated. The crude product is purified by flash silica chromatography (ethylacetate:hexane gradient 6:4 to 1:0 elution) to afford [(R)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-1-(4-methanesulfonylamino-benzyl)-ethyl]-carbamic acid tert-butyl ester. [MH]+534.7.

reactant | ((R)-1-(4-amino-benzyl)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl)-carbamic acid tert-butyl ester | 2.61 mmol, 1.19 g | C(C)(C)(C)OC(N[C@@H](CN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)CC1=CC=C(C=C1)N)=O | C26H34FN3O3
reactant | triethylamine | 2.65 mmol, 0.37 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 2.49mmol, 0.192 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | [(R)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-1-(4-methanesulfonylamino-benzyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)CC1=CC=C(C=C1)NS(=O)(=O)C)=O | C27H36FN3O5S
